US07115591B2
2-(4-Fluorophenyl)-4-(2-ethyl-1-hexyloxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
To a solution of 2-ethyl-1-hexanol (65 mg, 0.5 mmol) in THF (15 mL) at room temperature was added NaH (60% oil suspension) (20 mg, 0.5 mmol) and after 10 minutes 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (193 mg, 0.5 mmol) was added. The resulting mixture was stirred at room temperature for the next 2 hours. The mixture was quenched with 10% citric acid and extracted with ethyl acetate. The extract was washed with water, brine, dried with MgSO4, and purified by chromatography (silica gel, 2:1 hexanes-ethyl acetate) to provide the desired product (yield: 140 mg, 60%). mp 120–122° C. 1H NMR (300 MHz, DMSO-d6) δ 0.75 (m, 6H), 1.1 (m, 6H), 1.20 (quintet, J=7 Hz, 2H), 1.44 (m, 1H), 3.27 (s, 3H), 4.30 (d, J=6 Hz, 2H), 7.37 (t, J=9 Hz, 2H), 7.65 (m, 2H), 7.89 (d, J=9 Hz, 2H), 8.06 (d, J=9 Hz, 2H), 8.18 (s, 1H). MS (APCI+) m/z 473 (M+H)+; (APCI−) m/z 507 (M+Cl)−. Anal. calc. for C25H29FN2O4S.0.5 H2O: C, 62.35; H, 6.27; N, 5.87. Found: C, 62.22; H, 6.14; N, 6.22.

reactant | 2-ethyl-1-hexanol | 0.5 mmol, 65 mg | C(C)C(CO)CCCC | C8H18O
reactant | NaH | 0.5 mmol, 20 mg | [H-].[Na+]
reactant | 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | 0.5 mmol, 193 mg | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19FN2O6S2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(4-Fluorophenyl)-4-(2-ethyl-1-hexyloxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 140 mg, 60% | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OCC(CCCC)CC)C1=CC=C(C=C1)S(=O)(=O)C | C25H29FN2O4S
